* Schematics Netlist *



V_V1         s	0	DC	0	AC	1
+SIN	1	1	1k	0	0	0
*R_Ri		0	i	1meg  
C_Cs		s	i	100n  
E_E1		out	0	0	i	100K
R_Rf		out	i  10K  
R_RL		0 out  1k
